US08835393B2
To 2-aminophenylboronic acid pinacol ester a (3.0 g, 0.014 mol) and N-Boc-L-proline b (3.0 g, 0.014 mol) in N,N-dimethylformamide (15 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.6 g, 0.014 mol), 1-hydrozybenzotriazole (1.9 g, 0.014 mol), and then N,N-diisopropylethylamine (2.4 mL, 0.014 mol). The reaction was heated to 60° C., stirred several days, cooled to room temperature, and then quenched by the addition of a saturated aqueous solution of sodium bicarbonate. The aqueous layer was extracted with EtOAc and the combined organic layers were dried over MgSO4, filtered, and concentrated. The crude residue was purified by ISCO chromatography (80 g column, 0 to 80% EtOAc/Hexanes) to give (S)-tert-butyl 2-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamoyl)pyrrolidine-1-carboxylate c (2.87 g, 49%).

reactant | 2-aminophenylboronic acid pinacol ester | NC1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | N-Boc-L-proline | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.014 mol, 2.6 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.014 mol, 2.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (S)-tert-butyl 2-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamoyl)pyrrolidine-1-carboxylate | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C | C22H33BN2O5
